US05753679
0.428 g (0.00184 mol) of 1-(4-bromo-benzyl)-piperidin-4-ol was dissolved in 8 ml of dimethylformamide and treated with 0.097 g (0.00079 mol) of dimethylaminopyridine and 0.222 g (0.00158 mol) of 4-fluoro-benzoic acid. The mixture was cooled to 0° and 0.334 g (0.00174 mol) of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride was added. The mixture was warmed to room temperature and stirred for 18 hrs. The solvent was distilled off and the residue was taken up in ethyl acetate and treated with silica gel. After removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane (1:2) as the eluent. 0.47 g (76%) of 1-(4-bromo-benzyl)-piperidin-4-yl 4-fluoro-benzoate was obtained as a colorless oil.

reactant | 1-(4-bromo-benzyl)-piperidin-4-ol | 0.00184 mol, 0.428 g | BrC1=CC=C(CN2CCC(CC2)O)C=C1 | C12H16BrNO
reactant | dimethylaminopyridine | 0.00079 mol, 0.097 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-fluoro-benzoic acid | 0.00158 mol, 0.222 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.00174 mol, 0.334 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(4-bromo-benzyl)-piperidin-4-yl 4-fluoro-benzoate | 0.47 g, 76% | FC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=C(C=C2)Br)C=C1 | C19H19BrFNO2
